US05326771
N-(3,4-Dihydro-2H-l-benzopyran-2-carbonyl-4-phenyl-4-(4-trifluoromethyl phenoxy)piperidine
A solution of 0.89 g (5.5 mmol) of 1,1-carbonyldiimidazole and 11 ml of dry tetrahydrofuran is added dropwise to a solution of 0.89 g (5.0 mmol) of 3,4-dihydro-2H-1-benzopyran-2-carboxylic acid and 5.5 ml of dry tetrahydrofuran at 20°-25° C. in the course of 1 hour. The reaction solution is then stirred at room temperature for a further 2 hours. A solution of 1.93 g (6.0 mmol) of 4-phenyl-4-(4-trifluoromethyl-phenoxy)-piperidine is then added dropwise at 25° C. in the course of 1 hour. After 18 hours at room temperature, the reaction solution is stirred into a mixture of 220 ml of 5% strength sodium chloride solution, 13 ml of 1 molar hydrochloric acid and 110 ml of toluene for working up. The aqueous phase is extracted once more with 55 ml of toluene. The combined organic phases are then washed with 55 ml each of 0.1 molar hydrochloric acid, followed by 1% strength sodium bicarbonate solution and then water. The organic phase is dried with sodium sulphate and concentrated to dryness.

reactant | 3,4-dihydro-2H-1-benzopyran-2-carboxylic acid | 5.0 mmol, 0.89 g | O1C(CCC2=C1C=CC=C2)C(=O)O | C10H10O3
reactant | 4-phenyl-4-(4-trifluoromethyl-phenoxy)-piperidine | 6.0 mmol, 1.93 g | C1(=CC=CC=C1)C1(CCNCC1)OC1=CC=C(C=C1)C(F)(F)F | C18H18F3NO
reactant | sodium chloride | [Cl-].[Na+]
reactant | hydrochloric acid | 1 molar, 13 ml | Cl | ClH
solvent | toluene | 110 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 5.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
product | 3,4-Dihydro-2H-l-benzopyran-2-carbonyl-4-phenyl-4-(4-trifluoromethyl phenoxy)piperidine | O1C(CCC2=C1C=CC=C2)C(=O)N2CCC(CC2)(OC2=CC=C(C=C2)C(F)(F)F)C2=CC=CC=C2 | C28H26F3NO3
